Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Lipitor / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
workup of recurrent acute pancreatitis
 
Major Surgical or Invasive Procedure:
Upper endoscopic ultrasound ___
 
History of Present Illness:
___ year old male with history of acute pancreatitis of unclear 
etiology (___), CAD s/p stent placement, A-fib s/p 
cardioversion, HLD, now presenting with recurrent acute 
pancreatitis and imaging demonstrating a PD dilation, and an 
IPMN of the head of the pancreas. The patient has in his usual 
state of health when he began experiencing abdominal pain, 
located in the epigastrium, band like distribution that started 
the first week of ___ and gradually worsened. He states the 
pain is not related to meals/drinks and not associated with 
fever, nausea, vomiting or diarrhea. The pain precipitated an 
admission to ___ on ___ after being found to 
have an elevated lipase to 10.000 during a PCP ___. He was 
discharged home on ___ after an uneventful hospital stay 
and laboratory data demonstrating a trend down on his lipase 
levels. Given a worsening of symptoms, he was readmitted to 
___ on  ___ and found to have an increase of 
lipase level to 11.000. A CT abdomen and MRCP performed during 
this stay demonstrated a diffuse pancreatic duct dilation to 6mm 
and a lesion within the head of the pancreas consistent with 
IPMN. The patient has been referred for further evaluation and 
management.
 
Past Medical History:
Acute pancreatitis ___, h/o CAD s/p stent to RCA in ___ 
___ Cath: 50% RCA 50% LAD lesions, patent stent in RCA, h/o 
A-fib s/p DCCV ___, HLD, kidney stones

 
Social History:
___
Family History:
Mother died of ovarian cancer at ___ years old. Two maternal 
aunts with ovarian cancer. Maternal uncle with pancreatic 
cancer.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 97.9, 58, 101/55, 18, 98% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

On discharge, the patient's vital signs were stable. His abdomen 
was soft, non-tended and non-distended. His exam was otherwise 
unchanged from admission. 
 
Pertinent Results:
ADMISSION LABS
___ 04:08AM BLOOD WBC-3.6* RBC-3.76* Hgb-11.6*# Hct-33.5*# 
MCV-89 MCH-30.9 MCHC-34.7 RDW-13.3 Plt ___
___ 04:08AM BLOOD Neuts-53.5 ___ Monos-6.8 Eos-6.7* 
Baso-0.3
___ 04:08AM BLOOD ___ PTT-29.4 ___
___ 04:08AM BLOOD Glucose-65* UreaN-10 Creat-0.9 Na-142 
K-3.7 Cl-105 HCO3-28 AnGap-13
___ 04:08AM BLOOD ALT-49* AST-34 AlkPhos-76 Amylase-91 
TotBili-0.7
___ 04:08AM BLOOD Albumin-3.3* Calcium-9.0 Phos-3.0 Mg-1.6 
Iron-42*
___ 04:08AM BLOOD calTIBC-246* Ferritn-112 TRF-189*
___ 04:08AM BLOOD Triglyc-79
___ 04:08AM BLOOD Lipase-45
___ 04:08AM BLOOD CEA-<1.0

MRCP (MR ABD ___ ___ 
Findings:
1.  Minimal anterior pancreatic and peripancreatic edema, likely 
from reported recent episode of mild pancreatitis.  No 
pseudocyst. 
2.  11 mm cystic lesion arising from the pancreatic head could 
represent a small IPMN. While irregularity and mild dilation of 
the main pancreatic duct of 5 mm could reflect a combined-type 
IPMN, a side-branch IPMN with 
superimposed chronic pancreatitis is favored as the downstream 
duct appears is less prominent. A focal dilated side branch 
could also be considered. Correlate with EUS and consider 
followup MRCP to reassess the duct after resolution of reported 
recent episode of acute pancreatitis. 
3.  Small calcification or stone arising from the upper pole of 
the left 
kidney. No collecting system obstruction. Malrotated right 
kidney located 
within the pelvis. 
4.  Gallbladder fundal adenomyomatosis. 
 
LIVER OR GALLBLADDER US (SINGLE ORGAN) ___
IMPRESSION:  
1. No cholelithiasis or gallbladder sludge to explain the 
patient's 
pancreatitis. No intra or extrahepatic biliary duct dilation. 
2. Geographic area of focal fat in the liver. No worrisome liver 
lesions. 
3. Partially imaged tiny right pleural effusion. 
4. Small, but otherwise normal, right kidney. 
 
Brief Hospital Course:
Mr. ___ was transferred to ___ from ___ on 
___ for workup of recurrent acute pancreatitis which 
initially presented as band-like epigastric pain. He was 
transferred to ___ for concern of a cystic mass seen on MRCP. 
On Day 1 he underwent EUS on ___ which did not show any 
mass.  On Day 2 he was advanced to a clear liquid diet but was 
unable to tolerate and had to be maintained NPO. The following 
day however, he was tolerating clears and advanced to fulls and 
ultimately a low-fat regular diet which he tolerated with 
minimal pain. 

While admitted, Mr. ___ underwent work-up of the cystic 
lesion seen on his MRCP concerning for IPMN. His endoscopic 
ultrasound was negative for any mass and was consistent with 
pancreatitis. His tumor markers were within normal limits. His 
IgG4 was normal. In regards to his pain, he underwent an 
ultrasound which did not show gallstones. HIDA with ejection 
fraction was normal. His pain was well controlled upon 
discharge. 

The patient was discharged with follow-up with Dr. ___ 
Dr. ___. Given his family history of pancreatic cancer and 
ovarian cancer, he was referred for genetics evaluation. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO QPM 
2. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Pravastatin 20 mg PO QPM 
3. Acetaminophen 1000 mg PO Q6H:PRN pain 
do not exceed 4000mg of acetaminophen in 24 hrs 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Pancreatitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid driving or 
operating heavy machinery while taking pain medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Please maintain a low-fat diet for at least two weeks.
 
Followup Instructions:
___